US08791236B2
1,18-octadecanedioic acid mono benzyl ester (120 g, 0.3 mol), N-hydroxysuccinimide (41 g, 0.36 mol) and N,N-dicyclohexylcarbodiimide (74 g, 0.36 mol) were dissolved in NMP (1200 ml) and heated to 60° C. for 2.5 hr. The reaction mixture was cooled to 25° C. and the precipitate was removed by filtration and washed with water (4.7 L). The crude precipitate was recystallised from 2-propanol (1250 ml), affording benzyl 18-[(2,5-dioxo-1-pyrrolidinyl)oxy]-18-oxooctadecanoate. Yield 138 g (92%).

reactant | 1,18-octadecanedioic acid mono benzyl ester | 0.3 mol, 120 g | C(C1=CC=CC=C1)OC(CCCCCCCCCCCCCCCCC(=O)O)=O | C25H40O4
reactant | N-hydroxysuccinimide | 0.36 mol, 41 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | NMP | 1200 ml | CN1CCCC1=O | C5H9NO
product | benzyl 18-[(2,5-dioxo-1-pyrrolidinyl)oxy]-18-oxooctadecanoate | O=C1N(C(CC1)=O)OC(CCCCCCCCCCCCCCCCC(=O)OCC1=CC=CC=C1)=O | C29H43NO6
